US07968540B2
Step A. tert-Butyl 2a-(2-ethoxy-2-oxoethyl)-4-oxo-2a,3,4,5-tetrahydropyrrolo[4,3,2-de]quinolin-1(2H)-carboxylate, enantiomer A
To a stirred solution of ethyl (4-oxo-1,2,4,5-tetrahydropyrrolo[4,3,2-de]quinolin-2a(3H)-yl)acetate, enantiomer A, (158 mg, 0.607 mmol, described in Intermediate 20) and triethylamine (0.127 mL, 0.91 mmol) in CH2Cl2 (5 mL) was added di-tert-butyl dicarbonate (199 mg, 0.91 mmol). The mixture was stirred at ambient temperature for 19 h, then additional di-tert-butyl dicarbonate (100 mg, 0.46 mmol) and triethylamine (0.060 mL, 0.43 mmol) were added and stirring was continued for 72 h. The reaction mixture was quenched with saturated aqueous NaHCO3 (10 mL) and extracted with CH2Cl2 (3×20 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo to give the title compound in sufficient purity for use in the next step. MS: m/z=305 (M—C4H7).

reactant | ethyl (4-oxo-1,2,4,5-tetrahydropyrrolo[4,3,2-de]quinolin-2a(3H)-yl)acetate | O=C1NC=2C=CC=C3C2C(C1)(CN3)CC(=O)OCC | C14H16N2O3
reactant | triethylamine | 0.91 mmol, 0.127 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.91 mmol, 199 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 0.46 mmol, 100 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.43 mmol, 0.060 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2a-(2-ethoxy-2-oxoethyl)-4-oxo-2a,3,4,5-tetrahydropyrrolo[4,3,2-de]quinolin-1(2H)-carboxylate | C(C)OC(CC12CC(NC=3C=CC=C(C13)N(C2)C(=O)OC(C)(C)C)=O)=O | C19H24N2O5
